### PR TITLE
feat(ModularForms): prove corrected MLDE for F and G (with E₄ factor)

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Corrects the MLDE statements for F and G (missing E₄ factor on main), proves them, proves E₄ = H₂² + H₂H₄ + H₄², and builds reusable D-derivative automation infrastructure.

### Corrected MLDEs

The `MLDE_F` and `MLDE_G` statements on main are missing an E₄ factor. This PR provides corrected statements and proofs. Downstream results (e.g. `serre_D_L₁₀_eq`) are unaffected since the E₄·F and E₄·G terms cancel in L₁₀ = FDG − GDF.

- **`MLDE_F`**: `serre_D 12 (serre_D 10 F) = (5/6) E₄ F + 7200 Δ negDE₂`
- **`MLDE_G`**: `serre_D 12 (serre_D 10 G) = (5/6) E₄ G − 640 Δ H₂`

### D-derivative automation (`Derivative.lean`)

Infrastructure enabling `simp (disch := fun_prop)` for D-derivative computation:

- **`@[fun_prop]` registrations** for Pi constant functions (`MDifferentiable.pi_ofNat`, `MDifferentiable.pi_inv_ofNat`) so `fun_prop` can discharge MDifferentiable goals for numeric literals like `(5 : ℍ → ℂ)` and `(6⁻¹ : ℍ → ℂ)`
- **`D_neg`**: `D (-F) = -D F`
- **Generic D-constant normalization** (3 lemmas replacing what would otherwise need per-number lemmas):
  - `D_const_fun`: `D (Function.const ℍ c) = 0`
  - `pi_ofNat_eq_const`: normalizes `(n : ℍ → ℂ)` to `Function.const ℍ n`
  - `pi_inv_const_eq_const`: normalizes `(Function.const ℍ c)⁻¹` to `Function.const ℍ c⁻¹`

This lets `simp (disch := fun_prop)` fully expand expressions like `D(E₂³ · E₄² − E₂² · E₄ · E₆ + ...)` automatically — the MLDE_F proof is 7 lines instead of ~90.

### Ordinary D-derivatives of theta functions (`ThetaDerivIdentities.lean`)

- **`D_H₂`**: `D H₂ = (1/6)(H₂² + 2H₂H₄) + (1/6)(E₂ H₂)`
- **`D_H₃`**: `D H₃ = (1/6)(H₂² − H₄²) + (1/6)(E₂ H₃)`
- **`D_H₄`**: `D H₄ = −(1/6)(2H₂H₄ + H₄²) + (1/6)(E₂ H₄)`

These are derived from the Serre derivative theorems `serre_D_H₂`/`serre_D_H₃`/`serre_D_H₄` by solving for D. The MLDE_G proof uses `D_H₂` and `D_H₄` with `simp (disch := fun_prop)` to compute both Serre derivatives of G automatically, replacing the previous manual approach via cast helpers and serre_D Leibniz rule decomposition.

### E₄ identity (`ThetaDerivIdentities.lean`)

- **`E₄_eq_H_sum_sq`**: `E₄ = H₂² + H₂H₄ + H₄²` (by dimension argument)
- Supporting infrastructure: `H_sum_sq` S/T-actions, SL₂(ℤ)-invariance, boundedness, modular form construction

### Other

- `@[fun_prop] F_holo` for automatic MDifferentiable F proofs
- `Δ_fun_theta`: discriminant in terms of theta functions

## Test plan
- [x] `lake build` passes (only pre-existing sorry warnings in unrelated files)
- [x] `lean_verify MLDE_F` — standard axioms only

### CODE REVIEW

**Comment by seewoo5** [comment]
I think many of `FG.lean` have changed and this PR needs to be updated accordingly. In particular, I decided to not to use X_42 but use - D E_2 instead. Also, it replaces existing `MLDE_F` with `MLDE_F_X42`, which we don't want. Currently the one on the main branch is
```lean4
theorem MLDE_F : serre_D 12 (serre_D 10 F) = 5 * 6⁻¹ * F + 7200 * Δ_fun * negDE₂ := by
```

**Comment by cameronfreer** [comment]
> MLDE_F itself hasn't been proved in main branch, so it still worths continuing this PR (just work with correct version of the statement without X42).

Ah, I see now. It was straightforward to use the `MLDE_F_X42` proof to fill `MLDE_F` (now including `E₄.toFun *` before `F`): 66a2a4b2b0f8ee946935d3c3a038c952ea5b58e8

> I'm actually curious if proof in #341 will be helpful.

I haven't looked at #341 in detail to see what it does about `MLDE_F`, but it seems that `FG.lean` is deleted entirely.

**Comment by cameronfreer** [comment]
Actually it looks to me like the original `MLDE_F` (5/6 * F without E₄) is used by downstream `serre_D_L₁₀_eq` on `main`, but I'm not sure how to reconcile this.

File: SpherePacking/ModularForms/FG.lean [hunk 1]
```diff
@@ -114,21 +117,190 @@ theorem F_aux : D F = 5 * 6⁻¹ * E₂ ^ 3 * E₄.toFun ^ 2 - 5 * 2⁻¹ * E₂
...
+    - (5 * 6⁻¹ : ℂ) • (E₄.toFun ^ 2 * E₆.toFun) := by
+  rw [F_aux]; ext z; simp [Pi.smul_apply, smul_eq_mul]; ring
+
+private lemma E₂sq_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (E₂ ^ 2) := E₂_holo'.pow 2
+private lemma E₂cu_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (E₂ ^ 3) := E₂_holo'.pow 3
+private lemma E₄sq_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (E₄.toFun ^ 2) := E₄.holo'.pow 2
+private lemma E₄cu_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (E₄.toFun ^ 3) := E₄.holo'.pow 3
+private lemma E₆sq_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (E₆.toFun ^ 2) := E₆.holo'.pow 2
+
+private lemma D_E2cu_E4sq : D (E₂ ^ 3 * E₄.toFun ^ 2) =
```
Comment (seewoo5) [inline SpherePacking/ModularForms/FG.lean]: I think there might be a better way than this. My high level idea was that, for any given (quasi)modular form identity involving (serre) derivatives, unfold all the derivatives using Ramanujan's identity and ends with `ring_nf`, then prove `MDifferentiable` hypothesis later with `all_goals repeat fun_prop`. I thought this is possible by adding `simp` for the theorems on `D` and Ramajunan's identities, but it seems that there are something missing to make this work. I tried this with codex but haven't made it so far, so it would be great if you could do this.

Comment (cameronfreer) [reply SpherePacking/ModularForms/FG.lean]: Thanks -- something like this worked. cf89418 adds:

  1. @[fun_prop] registrations for F_holo and E₂_holo', plus Pi constant functions ((5 : ℍ → ℂ), (6⁻¹ : ℍ → ℂ)) so that fun_prop can discharge all the MDifferentiable side-goals automatically
  2. Concrete @[simp] lemmas for D of numeric constant functions (e.g. D (5 : ℍ → ℂ) = 0) — the generic D_const couldn't be matched by simp's discrimination tree for Pi-type numeric literals
  3. A single simp (disch := fun_prop) only [D_sub, D_add, D_mul, D_sq, D_cube, F_aux, ramanujan_E₂, ramanujan_E₄, ramanujan_E₆, ...] then replaces all the manual D-expansion boilerplate

This eliminated ~63 lines of helper lemmas (F_aux', holomorphicity lemmas, product derivative lemmas, DDF_eq) and now the proof of MLDE_F is 6 lines.

AFAICT, this approach doesn't help for MLDE_G, which works at the serre_D level with manual weight-splitting (serre_D_mul k₁ k₂) rather than D-level product rules.

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -187,6 +205,17 @@ theorem D_const (c : ℂ) (z : ℍ) : D (Function.const _ c) z = 0 := by
...
+@[simp] lemma D_two_fun : D (2 : ℍ → ℂ) = 0 := by ext z; exact D_const _ z
+@[simp] lemma D_three_fun : D (3 : ℍ → ℂ) = 0 := by ext z; exact D_const _ z
+@[simp] lemma D_five_fun : D (5 : ℍ → ℂ) = 0 := by ext z; exact D_const _ z
+@[simp] lemma D_six_fun : D (6 : ℍ → ℂ) = 0 := by ext z; exact D_const _ z
+@[simp] lemma D_inv_two_fun : D ((2 : ℍ → ℂ)⁻¹) = 0 := by
+  ext z; change D (Function.const ℍ ((2 : ℂ)⁻¹)) z = 0; exact D_const _ z
+@[simp] lemma D_inv_three_fun : D ((3 : ℍ → ℂ)⁻¹) = 0 := by
+  ext z; change D (Function.const ℍ ((3 : ℂ)⁻¹)) z = 0; exact D_const _ z
+@[simp] lemma D_inv_six_fun : D ((6 : ℍ → ℂ)⁻¹) = 0 := by
+  ext z; change D (Function.const ℍ ((6 : ℂ)⁻¹)) z = 0; exact D_const _ z
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: Could you unify these into one or two lemmas?

File: SpherePacking/ModularForms/FG.lean (hunk 1 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: Nice!

File: SpherePacking/ModularForms/Derivative.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: >Could you unify these into one or two lemmas?

It took a few more changes than expected, but this eventually worked in 0d919ba5157688e863544c428e5065d3ba430a87:
  - Replaced 10 concrete D-constant simp lemmas (D_two_fun, D_three_fun, etc.) with 3 generic ones:
    - D_const_fun: D (Function.const ℍ c) = 0
    - pi_ofNat_eq_const: normalizes (n : ℍ → ℂ) → Function.const ℍ n
    - pi_inv_const_eq_const: normalizes (Function.const ℍ c)⁻¹ → Function.const ℍ c⁻¹
  - The MLDE_F proof uses two simp passes: first simp (disch := fun_prop) for D-rules, then simp only
  [...] for constant normalization
  - Build passes, MLDE_F verified with standard axioms only

File: SpherePacking/ModularForms/FG.lean [hunk 3]
```diff
@@ -114,21 +118,108 @@ theorem F_aux : D F = 5 * 6⁻¹ * E₂ ^ 3 * E₄.toFun ^ 2 - 5 * 2⁻¹ * E₂
...
+-- Cast helpers for bridging serre_D (k : ℂ) with serre_D_mul/add/smul (k : ℤ)
+private lemma c6s :
+    serre_D ((6 : ℤ) : ℂ) = serre_D (((2 : ℤ) : ℂ) + ((4 : ℤ) : ℂ)) := by norm_cast
+private lemma c4s :
+    serre_D ((4 : ℤ) : ℂ) = serre_D (((2 : ℤ) : ℂ) + ((2 : ℤ) : ℂ)) := by norm_cast
+private lemma c22 :
+    ((2 : ℤ) : ℂ) + ((2 : ℤ) : ℂ) = ((4 : ℤ) : ℂ) := by push_cast; norm_num
+private lemma c24 :
+    ((2 : ℤ) : ℂ) + ((4 : ℤ) : ℂ) = ((6 : ℤ) : ℂ) := by push_cast; norm_num
+private lemma c2n : ((2 : ℤ) : ℂ) = (2 : ℂ) := by norm_cast
```
Comment (seewoo5) [inline SpherePacking/ModularForms/FG.lean]: I still believe that there would be a better way to do this, but I may need some time to think about it. I may have time later this week, but let me know if you figure out your own way. High level idea is still similar - write everything with H2, H3, H4, then finish with ring. One extra step would be the one expressing level 1 modular forms as Hi's (e.g. `E₄_eq_H_sum_sq`).

Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: @cameronfreer I made #348  for this (it won't be merged). Basically, `D_H₂` and simlar counterparts were missing, and I was able to make my idea work by adding these. I should have made PR to your fork, but could you check #348 and cherry-pick `MLDE_G` part?

Comment (cameronfreer) [reply SpherePacking/ModularForms/FG.lean]: @seewoo5 Thanks -- I cherry-picked them and it worked here, after which I golfed a bit more.

Note that `D_neg` is unused here (even in non-`only` calls to `simp`; removing it didn't break anything), but do we still want it to simplify other things later?

File: SpherePacking/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -190,6 +210,21 @@ theorem D_const (c : ℂ) (z : ℍ) : D (Function.const _ c) z = 0 := by
     _ = (2 * π * I)⁻¹ * 0 := by rw [h]
     _ = 0 := by ring_nf
 
+@[simp]
+lemma D_const_fun (c : ℂ) : D (Function.const ℍ c) = 0 := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: I realized D_const is not used - actually this one seems more appropriate. Could you remove above one and rename this as D_const?

File: SpherePacking/ModularForms/FG.lean (hunk 3 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: Yes let's keep this - I'm planning to upstream Derivative.lean to mathlib.

File: SpherePacking/ModularForms/Derivative.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks, see bd1562254a7d20bc76d03e3e707c0a37a4593c89
